US08871934B2
Optically Active Form of 2-[4-(2-fluoro-9-hydroxy-9-trifluoromethyl-9H-fluoren-4-yl)-pyrazol-1-yl]-3-hydroxy-2-methyl-propionic acid
To a solution of an optically active form (27.9 g) of 2-[4-(2-fluoro-9-hydroxy-9-trifluoromethyl-9H-fluoren-4-yl)-pyrazol-1-yl]-propionic acid ethyl ester and paraformaldehyde (17.0 g) in dimethylformamide (100 ml) was added at room temperature a 1M solution (170 ml) of tetrabutylammonium fluoride in tetrahydrofuran, and the mixture was stirred at 100° C. for 6 hr. The reaction mixture was filtered through celite, and the solid was washed with ethyl acetate (100 ml). To the filtrate was added 1N hydrochloric acid (400 ml), and the mixture was extracted with ethyl acetate (100 ml). The separated aqueous layer was extracted twice with ethyl acetate (100 ml). The combined organic layer was successively washed once with 1N hydrochloric acid (100 ml), twice with brine (water/saturated brine=100 ml/10 ml) and once with saturated brine, dried over anhydrous sodium sulfate and concentrated under reduced pressure. The obtained residue was azeotroped twice with toluene to give the title compound (26.6 g).

reactant | 2-[4-(2-fluoro-9-hydroxy-9-trifluoromethyl-9H-fluoren-4-yl)-pyrazol-1-yl]-propionic acid ethyl ester | 27.9 g | C(C)OC(C(C)N1N=CC(=C1)C1=CC(=CC=2C(C3=CC=CC=C3C12)(C(F)(F)F)O)F)=O | C22H18F4N2O3
reactant | paraformaldehyde | 17.0 g | C=O | CH2O
reactant | tetrabutylammonium fluoride | [F-].C(CCC)[N+](CCCC)(CCCC)CCCC
reactant | dimethylformamide | 100 ml | CN(C=O)C | C3H7NO
solvent | tetrahydrofuran | O1CCCC1 | C4H8O
product | 2-[4-(2-fluoro-9-hydroxy-9-trifluoromethyl-9H-fluoren-4-yl)-pyrazol-1-yl]-3-hydroxy-2-methyl-propionic acid | 26.6 g | FC1=CC=2C(C3=CC=CC=C3C2C(=C1)C=1C=NN(C1)C(C(=O)O)(CO)C)(C(F)(F)F)O | C21H16F4N2O4
